US09255090B2
Synthesis of 5,7-Difluoro-isoquinolin-8-ol (C9H5NOF2, MW=181.03)
To a suspension of aluminiumchlorid (3.85 g, 28.9 mmol, 5 eq.) in DCM (40 mL), N-(3,5-difluoro-2-methoxy-benzyl)-N-(2,2-dimethoxy-ethyl)-4-methyl-benzenesulfonamide (2.40 g, 5.78 mmol, 1 eq.) in DCM (15 mL) was added dropwise at r.t. The reaction mixture was stirred at r.t. for 18 hours. The reaction mixture was poured on ice (300 g). The mixture was extracted with DCM (3×200 mL). The comb. org. phases were washed with sat. aq. NaHCO3 soln. (150 mL) and sat. aq. NaCl soln. (1×100 mL). The resulting suspension was filtered and the solid was rinsed with DCM (20 mL). The solid was dried at h.v. to give the title compound as a yellow solid. The product was used without further purification.

reactant | aluminiumchlorid | 28.9 mmol, 3.85 g, 5 eq. | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-(3,5-difluoro-2-methoxy-benzyl)-N-(2,2-dimethoxy-ethyl)-4-methyl-benzenesulfonamide | 5.78 mmol, 2.40 g, 1 eq. | FC=1C(=C(CN(S(=O)(=O)C2=CC=C(C=C2)C)CC(OC)OC)C=C(C1)F)OC | C19H23F2NO5S
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 5,7-Difluoro-isoquinolin-8-ol | FC1=C2C=CN=CC2=C(C(=C1)F)O | C9H5F2NO
